US05763450
A mixture of 193 mg of 5-(3,4-dimethoxy-5-iodo-benzyl)-pyrimidine-2,4-diamine, 224 mg of ethyl 1-cyclopropyl-6,8-difluoro-7-vinyl-4-oxo-1,4-dihydro-quinoline-3-carboxylate (J. Heterocyclic Chem., 28, 1581 (1991)), 26 mg of triphenylphosphine, 0.084 ml of triethylamine and 11.2 mg of palladium acetate in 2 ml of dimethylformamide is heated at 100° for 5 hrs. The reaction mixture is cooled to room temperature, poured into 50 ml of water and extracted twice with 25 ml of ethyl acetate each time. The organic phases are washed twice with 25 ml of 2N aqueous hydrochloric acid each time. The hydrochloric acid phases are made basic with sodium bicarbonate and extracted three times with 25 ml of methylene chloride each time. The combined organic phases are washed with 25 ml of water, dried over magnesium sulphate and concentrated. The crude product is recrystallized from methylene chloride/diethyl ether. 140 mg (49%) of ethyl (E)-7-[2-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenyl]-vinyl]-1-cyclopropyl-6,8-difluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylate are obtained as a yellowish solid. Mass spectrum (ISP): 578 (M++H, 100%).

reactant | 5-(3,4-dimethoxy-5-iodo-benzyl)-pyrimidine-2,4-diamine | 193 mg | COC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1OC)I | C13H15IN4O2
reactant | ethyl 1-cyclopropyl-6,8-difluoro-7-vinyl-4-oxo-1,4-dihydro-quinoline-3-carboxylate | 224 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C=C)F)=O)C(=O)OCC | C17H15F2NO3
reactant | triphenylphosphine | 26 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.084 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 11.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 50 ml | O | H2O
product | ethyl (E)-7-[2-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenyl]-vinyl]-1-cyclopropyl-6,8-difluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylate | 140 mg, 49% | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)/C=C/C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F)OC)OC | C30H29F2N5O5
